US06300333B1
4-(N-tert-butoxycarbonylpiperidin-1-ylamino)-5-chloro-6-ethylpyrimidine
17.7 g (0.10 mol) of 4,5-dichloro-6-ethylpyrimidine, 20.0 g 1-(tert-butoxycarbonyl)4-aminopiperidine (0.10 mol) and 15.2 g (0.15 mol) of triethylamine were heated for 8 hours at 80-90°. After cooling, the mixture was worked up with water/dichloromethane and the organic phase was dried and concentrated. For purification, the crude product was chromatographed on silica gel (petroleum ether/ethyl acetate 1:1). This gave 21.7 g (63.6% of theory) of a colorless oil which solidified gradually.

reactant | 4,5-dichloro-6-ethylpyrimidine | 0.10 mol, 17.7 g | ClC1=NC=NC(=C1Cl)CC | C6H6Cl2N2
reactant | 1-(tert-butoxycarbonyl)4-aminopiperidine | 0.10 mol, 20.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | triethylamine | 0.15 mol, 15.2 g | C(C)N(CC)CC | C6H15N
reactant | water dichloromethane | O.ClCCl
product | 4-(N-tert-butoxycarbonylpiperidin-1-ylamino)-5-chloro-6-ethylpyrimidine | C(C)(C)(C)OC(=O)N(C1=NC=NC(=C1Cl)CC)N1CCCCC1 | C16H25ClN4O2
